US07547710B2
2-{[3-(aminomethyl)-4-(2-fluorophenyl)-2-isobutylquinolin-6-yl]oxy}propanamide
To tert-butyl [6-(2-amino-1-methyl-2-oxoethoxy)-4-(2-fluorophenyl)-2-isobutylquinolin-3-yl]methylcarbamate (0.12 g, 0.24 mmol) was added 4N solution of hydrogen chloride in 1,4-dioxane (5 ml) and the mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned between ethyl acetate-isopropanol (4:1, 125 ml) and 10% aqueous potassium carbonate solution (100 ml). The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (0.070 g, yield 73%) as a colorless powder.

reactant | tert-butyl [6-(2-amino-1-methyl-2-oxoethoxy)-4-(2-fluorophenyl)-2-isobutylquinolin-3-yl]methylcarbamate | 0.24 mmol, 0.12 g | NC(C(OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=C(C=CC=C1)F)C)=O | C28H34FN3O4
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-{[3-(aminomethyl)-4-(2-fluorophenyl)-2-isobutylquinolin-6-yl]oxy}propanamide | 0.070 g, yield 73% | NCC=1C(=NC2=CC=C(C=C2C1C1=C(C=CC=C1)F)OC(C(=O)N)C)CC(C)C | C23H26FN3O2
